US05827863
2-(Tert-butoxycarbonylamino)phenylboronic acid
To a cooled (-78° C.) solution of N-BOC aniline (5 g1 25.87 mmol) in THF (111.1 mL) was added tert-butyl lithium (38.9 mL, 66.7 mmol) and the mixture was stirred under an argon atmosphere for E5 min. It was then allowed to warm up to -20° C. and stirred at that temperature for 2 h. Trimethylborate was added (11.94 mL, 105.6 mmol) and the mixture was stirred until it warmed up to room temperature. Then, it was cooled to 0° C. and aqueous 10% HCl was added to pH=6.5. The layers were separated and the aqueous phase was extracted with CH2Cl2. The combined organic extracts were washed with brine, dried and concentrated to a crude product, which was washed with a mixture of EtOAc-hexane (5:95) to give the title compound as a yellow solid (53%).

reactant | N-BOC aniline | 25.87 mmol | C(=O)(OC(C)(C)C)NC1=CC=CC=C1 | C11H15NO2
reactant | tert-butyl lithium | 66.7 mmol, 38.9 mL | C(C)(C)(C)[Li]
reactant | Trimethylborate | COB(OC)OC | C3H9BO3
reactant | HCl | Cl | ClH
solvent | THF | 111.1 mL | C1CCOC1 | C4H8O
product | 2-(Tert-butoxycarbonylamino)phenylboronic acid | 53% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)B(O)O | C11H16BNO4
